* Extracted by KLayout with GF180MCU LVS runset on : 11/09/2025 21:19

.SUBCKT Pmos_Comparator vss v_7_3_p v_5_11_p v_6_9_p vout inn inp ibias_p iref
+ vdd
M$1 v_5_11_p inn ibias_p vdd pfet_03v3 L=1U W=12U AS=4.29P AD=4.29P PS=17.86U
+ PD=17.86U
M$5 v_6_9_p inp ibias_p vdd pfet_03v3 L=1U W=12U AS=4.29P AD=4.29P PS=17.86U
+ PD=17.86U
M$9 vout v_7_3_p vdd vdd pfet_03v3 L=0.6U W=25U AS=8.45P AD=8.45P PS=33.38U
+ PD=33.38U
M$14 vdd v_7_3_p v_7_3_p vdd pfet_03v3 L=0.6U W=25U AS=8.45P AD=8.45P PS=33.38U
+ PD=33.38U
M$19 ibias_p iref vdd vdd pfet_03v3 L=1U W=14U AS=5.005P AD=5.005P PS=20.36U
+ PD=20.36U
M$23 iref iref vdd vdd pfet_03v3 L=1U W=7U AS=3.185P AD=3.185P PS=12.32U
+ PD=12.32U
M$25 vss v_5_11_p v_7_3_p vss nfet_03v3 L=1U W=5.5U AS=3.355P AD=3.355P
+ PS=12.22U PD=12.22U
M$26 v_5_11_p v_5_11_p vss vss nfet_03v3 L=1U W=5.5U AS=3.355P AD=3.355P
+ PS=12.22U PD=12.22U
M$27 vss v_6_9_p v_5_11_p vss nfet_03v3 L=1U W=5.5U AS=3.355P AD=3.355P
+ PS=12.22U PD=12.22U
M$28 v_6_9_p v_5_11_p vss vss nfet_03v3 L=1U W=5.5U AS=3.355P AD=3.355P
+ PS=12.22U PD=12.22U
M$29 vss v_6_9_p v_6_9_p vss nfet_03v3 L=1U W=5.5U AS=3.355P AD=3.355P
+ PS=12.22U PD=12.22U
M$30 vout v_6_9_p vss vss nfet_03v3 L=1U W=5.5U AS=3.355P AD=3.355P PS=12.22U
+ PD=12.22U
.ENDS Pmos_Comparator
